US08664380B2
N-[(3S,5R)-5-(azetidin-1-ylcarbonyl)piperidin-3-yl]-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide
To tert-butyl (3R,5S)-3-(azetidin-1-ylcarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate (230 mg) in 1,2-dichloroethane (3 ml) was added TFA (3 ml) and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and the residue was dissolved in ethyl acetate-water, and neutralized with saturated aqueous sodium hydrogen carbonate. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give the object product (100 mg).

reactant | tert-butyl (3R,5S)-3-(azetidin-1-ylcarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 230 mg | N1(CCC1)C(=O)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C31H47N5O5
reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
product | N-[(3S,5R)-5-(azetidin-1-ylcarbonyl)piperidin-3-yl]-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide | 100 mg | N1(CCC1)C(=O)[C@@H]1C[C@@H](CNC1)N(C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)CC(C)C | C26H39N5O3
